US06596772B1
4-(Trifluoromethylthio)benzyl alcohol (300 mg, 1.44 mmol) was coupled with 4-(trifluoromethylsulfonyl)chlorobenzene (370 mg, 1.51 mmol) using sodium hydride (65 mg, 60% dispersion in oil, 1.58 mmol) to give 400 mg of 4-trifluoromethylthiobenzyl 4-trifluoromethylsulfonylphenyl ether as a white solid. 1HNMR (360 MHz, DMSO-d6) δ 8.06 (d, J=8.4 Hz, 2H), 7.77 (d, J=8.4 Hz, 2H), 7.63 (d, J=8.4 Hz, 2H), 7.43 (d, J=8.4 Hz, 2H), 5.39 (s, 2H, OCH2).

reactant | 4-(Trifluoromethylthio)benzyl alcohol | 1.44 mmol, 300 mg | FC(SC1=CC=C(CO)C=C1)(F)F | C8H7F3OS
reactant | 4-(trifluoromethylsulfonyl)chlorobenzene | 1.51 mmol, 370 mg | FC(S(=O)(=O)C1=CC=C(C=C1)Cl)(F)F | C7H4ClF3O2S
reactant | sodium hydride | 1.58 mmol, 65 mg | [H-].[Na+]
product | 4-trifluoromethylthiobenzyl 4-trifluoromethylsulfonylphenyl ether | 400 mg | FC(S(=O)(=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)SC(F)(F)F)(F)F | C15H10F6O3S2
